US08076516B2
Preparation of 4-(3-(1-HYDROXY-3-(methylamino)propyl)phenethyl)heptan-4-ol
Reduction of tert-butyl 3-hydroxy-3-(3-(3-hydroxy-3-propylhexyl)phenyl)propylcarbamate using BH3-THF gives Example 167.

reactant | tert-butyl 3-hydroxy-3-(3-(3-hydroxy-3-propylhexyl)phenyl)propylcarbamate | OC(CCNC(OC(C)(C)C)=O)C1=CC(=CC=C1)CCC(CCC)(CCC)O | C23H39NO4
reactant | BH3-THF | B.C1CCOC1
product | 4-(3-(1-HYDROXY-3-(methylamino)propyl)phenethyl)heptan-4-ol | OC(CCNC)C=1C=C(CCC(CCC)(CCC)O)C=CC1 | C19H33NO2
